US07754882B2
Cis-3-[9-(3-Piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinolin-6-yl]-phenol
To a solution of cis-6-(3-methoxy-phenyl)-9-(3-piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinoline (27.0 mg, 0.042 mmol) in CH2Cl2 (0.2 mL) was added BBr3 (1 M in CH2Cl2, 0.21 mL) and the reaction mixture was stirred at rt for 15 min. The reaction was quenched with water and the mixture was concentrated under a stream of N2. The crude material was purified by reverse-phase HPLC to give 14.1 mg (53%) of the desired product as a TFA salt. MS: exact mass calcd for C26H34N2O2, 406.3; m/z found, 407.5 [M+H]+. 1H NMR (acetone-d6): 7.20 (m, 1H), 6.92 (m, 1H), 6.78 (m, 5H), 4.83 (m, 1H), 4.46 (m, 1H), 4.11 (t, J=7.2, 2H), 3.87 (m, 1H), 3.59 (m, 2H), 3.38 (m, 2H), 3.28 (m, 2H), 2.89 (m, 3H), 2.87 (m, 2H), 2.29 (m, 5H), 1.88 (m, 4H), 1.57 (m, 2H).

reactant | cis-6-(3-methoxy-phenyl)-9-(3-piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinoline | 0.042 mmol, 27.0 mg | COC=1C=C(C=CC1)[C@@H]1CN2[C@H](C3=CC(=CC=C13)OCCCN1CCCCC1)CCC2 | C27H36N2O2
reactant | BBr3 | 1 M, 0.21 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
product | Cis-3-[9-(3-Piperidin-1-yl-propoxy)-1,2,3,5,6,10b-hexahydro-pyrrolo[2,1-a]isoquinolin-6-yl]-phenol | 14.1 mg, 53% | N1(CCCCC1)CCCOC1=CC=C2[C@@H](CN3[C@H](C2=C1)CCC3)C=3C=C(C=CC3)O | C26H34N2O2
